US06982348B2
To a solution of ethyl 3-(6-chloro-2-pyridyl)-3-oxopropionate (7.6 g, 33.4 mmol) in 1,2-dimethoxyethane (50 ml) was added sodium hydride (60% in oil, 1.34 g, 33.4 mmol) under ice-cooling, and the mixture was stirred at room temperature for 2 hrs. To the reaction solution was dropwise added a solution of 4-trifluoromethylbenzyl bromide (7.98 g, 33.4 mmol) in 1,2-dimethoxyethane (50 ml), and the mixture was stirred overnight at room temperature. The reaction solution was poured into water (200 ml), saturated aqueous sodium hydrogen carbonate was added, and the mixture was extracted with ethyl acetate (200 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (toluene) to give ethyl 3-(6-chloro-2-pyridyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate (13.0 g, 100%) as a colorless oil.

reactant | ethyl 3-(6-chloro-2-pyridyl)-3-oxopropionate | 33.4 mmol, 7.6 g | ClC1=CC=CC(=N1)C(CC(=O)OCC)=O | C10H10ClNO3
reactant | sodium hydride | 33.4 mmol, 1.34 g | [H-].[Na+]
reactant | 4-trifluoromethylbenzyl bromide | 33.4 mmol, 7.98 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
solvent | water | 200 ml | O | H2O
product | ethyl 3-(6-chloro-2-pyridyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 13.0 g, 100% | ClC1=CC=CC(=N1)C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)=O | C18H15ClF3NO3
